US07816558B2
Cesium fluoride and tetrakis(triphenylphosphine)palladium were added to a 1,2-dimethoxyethane solution of (3-cyano-4-fluorophenyl)boric acid and methyl 2-chloroisonicotinate, and the mixture was heated under reflux in an argon atmosphere to obtain methyl 2-(3-cyano-4-fluorophenyl)isonicotinate. F: 257.

reactant | Cesium fluoride | [F-].[Cs+]
reactant | (3-cyano-4-fluorophenyl)boric acid | C(#N)C=1C=C(C=CC1F)OB(O)O | C7H5BFNO3
reactant | methyl 2-chloroisonicotinate | ClC=1C=C(C(=O)OC)C=CN1 | C7H6ClNO2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | methyl 2-(3-cyano-4-fluorophenyl)isonicotinate | C(#N)C=1C=C(C=CC1F)C=1C=C(C(=O)OC)C=CN1 | C14H9FN2O2
